US08563575B2
2-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (1.861 g) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.4 g) and sodium hydride (0.263 g) in DMF (dry) (10 mL) at room temperature. The mixture was heated at 200° C. for 1 h under microwave irradiation. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, eluted with 5%-50% EtOAc in hexane) to give 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.60 g) as a colorless solid. A mixture of 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (194 mg) and 2 M HCl in EtOH (6.0 mL) was stirred at 70° C. for 4 h. After cooling to room temperature, the solvent was removed in vacuo. The residue was recrystallized from EtOH-ether to give 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one hydrochloride (154 mg).

reactant | 2-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole | 1.861 g | ClC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C13H19ClN2OSi
reactant | 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.4 g | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C14H13N3O2
reactant | sodium hydride | 0.263 g | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2.60 g | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1)=O | C27H31N5O3Si
